US06562811B1
To a solution of 1-[2-(benzyloxy)phenyl]-2-bromoethanone (2.59 g, 8.5 mmol) and pyridine (1.37 mL, 17 mmol) in THF was added tetrabutylammonium hydrogen difluoride (4.78 g, 17 mmol). The reaction mixture was stirred under reflux for 22 hrs. The mixture was diluted with ether (250 mL), then washed with 1N aqueous hydrochloric acid (100 mL) and brine (100 mL), successively. The organic phase was dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (hexane/ethyl acetate, 4:1) to give 1-[2-(benzyloxy)phenyl]-2-fluoroethanone (688 mg, yield; 33%).

reactant | 1-[2-(benzyloxy)phenyl]-2-bromoethanone | 8.5 mmol, 2.59 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(CBr)=O | C15H13BrO2
reactant | pyridine | 17 mmol, 1.37 mL | N1=CC=CC=C1 | C5H5N
reactant | tetrabutylammonium hydrogen difluoride | 17 mmol, 4.78 g | CCCC[N+](CCCC)(CCCC)CCCC.F.[F-]
solvent | THF | C1CCOC1 | C4H8O
solvent | ether | 250 mL | CCOCC | C4H10O
product | 1-[2-(benzyloxy)phenyl]-2-fluoroethanone | 688 mg, yield; 33% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(CF)=O | C15H13FO2
